US09290451B2
b) 5-Cyclopropyl-6-(tetrahydro-furan-2-ylmethoxy)-pyridine-2-carboxylic acid
Palladium(II)acetate (1.19 mg, 5.3 μmol), butylbis(tricyclo[3.3.1.13,7]dec-1-yl)-phosphine (2.85 mg, 7.94 μmol, CAN 321921-71-5), potassium cyclopropyltrifluoroborate (39.6 mg, 267 μmol) and cesium carbonate (259 mg, 794 μmol) were combined to give a white solid. To this solid a degassed solution of 5-bromo-6-(tetrahydro-furan-2-ylmethoxy)-pyridine-2-carboxylic acid (80 mg, 265 μmol) in toluene (2.02 mL)/water (224 μL) was added through a septum cap. The reaction mixture was heated to 120° C. and stirred for 20 h. After cooling to ambient temperature the reaction mixture was diluted with water (2 mL), poured onto 20 mL ice water/brine/1 N HCl, extracted with isopropyl acetate (2×40 mL), and washed with 20 mL ice water/brine. The organic layers were dried with Na2SO4 and concentrated in vacuo to give a light brown oily residue which was purified by preparative TLC (silica gel, 2.0 mm, DCM/MeOH, 49:1). The title compound (25 mg, 36%) was isolated as light yellow liquid; MS (ESI): 262.0 [M−H]−.

reactant | potassium cyclopropyltrifluoroborate | 267 μmol, 39.6 mg | C1(CC1)[B-](F)(F)F.[K+]
reactant | cesium carbonate | 794 μmol, 259 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-6-(tetrahydro-furan-2-ylmethoxy)-pyridine-2-carboxylic acid | 265 μmol, 80 mg | BrC=1C=CC(=NC1OCC1OCCC1)C(=O)O | C11H12BrNO4
solvent | toluene | 2.02 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 2 mL | O | H2O
catalyst | Palladium(II)acetate | 5.3 μmol, 1.19 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | butylbis(tricyclo[3.3.1.13,7]dec-1-yl)-phosphine | 7.94 μmol, 2.85 mg | C(CCC)P(C12CC3CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C24H39P
solvent | water | 224 μL | O | H2O
product | 5-Cyclopropyl-6-(tetrahydro-furan-2-ylmethoxy)-pyridine-2-carboxylic acid | 25 mg, 36% | C1(CC1)C=1C=CC(=NC1OCC1OCCC1)C(=O)O | C14H17NO4
